US07405306B2
2.2 3-[6-chloro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-N,N-dimethyl-3-oxopropanamide
A stream of gaseous dimethylamine is passed into a mixture of 15 g (44.4 mmol) of ethyl 3-[6-chloro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxo-propanoate, obtained in step 2.1., and 0.2 g (1.63 mmol) of 4-(N,N-dimethyl)aminopyridine in 100 ml of toluene. Immediately a condenser, surmounted by a balloon flask, is fitted and the solution is stirred at 100° C. under low pressure for 20 h. The mixture is cooled to ambient temperature and concentrated under reduced pressure and the residue is chromatographed on a silica gel column (eluent: cyclohexane/dichloromethane:50/50, then dichloromethane/ethyl acetate: 100/0 to 0/100). This gives 3.8 g of a yellow solid which is recrystallized from a dichloromethane/ethyl acetate mixture.

reactant | dimethylamine | CNC | C2H7N
reactant | ethyl 3-[6-chloro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxo-propanoate | 44.4 mmol, 15 g | ClC1=CC=C2C(=C(N(C2=C1)C)C(=O)OC)C(CC(=O)OCC)=O | C16H16ClNO5
catalyst | 4-(N,N-dimethyl)aminopyridine | 1.63 mmol, 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[6-chloro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-N,N-dimethyl-3-oxopropanamide | ClC1=CC=C2C(=C(N(C2=C1)C)C(=O)OC)C(CC(=O)N(C)C)=O | C16H17ClN2O4
